US04062848
1.46 g (0.05mol) 2-methyl-5-oxo-1,2,3,4,5,15b-hexahydro-11H-benzo[c][1,4]diazepino[1,2-a]pyrido[2,3-f]azepine is added to a suspension of 1.5 g LiAlH4 in 15 ml dry dioxan under nitrogen, and the whole is stirred for 10 minutes at room temperature, after which the reaction mixture is worked up in the way described in example X.2., giving 1.21 g (89%) 2-methyl-1,2,3,4,5,15b-hexahydro-11H-benzo[c][1,4]diazepino[1,2-a]pyrido[2,3-f]azepine as a clear colourless oil.

reactant | 2-methyl-5-oxo-1,2,3,4,5,15b-hexahydro-11H-benzo[c][1,4]diazepino[1,2-a]pyrido[2,3-f]azepine | 0.05mol, 1.46 g | CN1CC2N(C3=C(CC4=C2C=CC=C4)N=CC=C3)C(CC1)=O | C18H19N3O
reactant | LiAlH4 | 1.5 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | dioxan | 15 ml | O1CCOCC1 | C4H8O2
product | 2-methyl-1,2,3,4,5,15b-hexahydro-11H-benzo[c][1,4]diazepino[1,2-a]pyrido[2,3-f]azepine | 1.21 g, 89% | CN1CC2N(C3=C(CC4=C2C=CC=C4)N=CC=C3)CCC1 | C18H21N3
